US07572820B2
1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine: 1H NMR (400 MHz, CDCl3) δ 9.04 (d, J=1.4 Hz, 1H), 8.84 (d, J=2.0 Hz, 1H), 8.43 (m, 1H), 7.68 (d, J=8.4 Hz, 1H), 7.59 (d, J=8.4 Hz, 1H), 6.67 (s, 1H), 5.63 (s, 2H), 2.82 (d, J=7.1 Hz, 2H), 2.13 (m, 1H), 1.08 (d, J=6.6 Hz, 6H); MS (ES) m/z 504 (M+1, isotope for Br) and 506 (M+1, isotope for Br).

reactant | 2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC(CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N)C | C14H13F3N2
reactant | 3-bromo-5-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]pyridine | BrC=1C=NC=C(C1)C=1OC(=NN1)CCl | C8H5BrClN3O
product | 1-{[5-(5-Bromo-3-pyridinyl)-1,3,4-oxadiazol-2-yl]methyl}-2-(2-methylpropyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | BrC=1C=C(C=NC1)C1=NN=C(O1)CN1C(=CC2=C(C(=CC=C12)C#N)C(F)(F)F)CC(C)C | C22H17BrF3N5O
